US08008303B2
2′-Methoxy-5′-(4-morpholin-4-yl-phenylcarbamoyl)-biphenyl-4-carboxylic acid
A mixture of 3-Bromo-4-methoxy-N-(4-morpholin-4-yl-phenyl)-benzamide (788 mg) and 4-(ethoxycarbonyl)-phenyl boronic acid (564 mg) in 2:1 DME:water (15 ml) containing cesium carbonate (1.31 g) and tetrakis(triphenylphosphine)palladium0 (232 mg) was heated to reflux for 18 h.

reactant | 3-Bromo-4-methoxy-N-(4-morpholin-4-yl-phenyl)-benzamide | 788 mg | BrC=1C=C(C(=O)NC2=CC=C(C=C2)N2CCOCC2)C=CC1OC | C18H19BrN2O3
reactant | 4-(ethoxycarbonyl)-phenyl boronic acid | 564 mg | C(C)OC(=O)C1=CC=C(C=C1)B(O)O | C9H11BO4
reactant | DME | COCCOC | C4H10O2
reactant | cesium carbonate | 1.31 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water | 15 ml | O | H2O
product | 2′-Methoxy-5′-(4-morpholin-4-yl-phenylcarbamoyl)-biphenyl-4-carboxylic acid | COC1=C(C=C(C=C1)C(NC1=CC=C(C=C1)N1CCOCC1)=O)C1=CC=C(C=C1)C(=O)O | C25H24N2O5
